US07851493B2
To a suspension of 0.5 g of acetic acid 5-[3-methoxy-4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethyl ester in 5 mL of methanol at 0° C. was added 0.22 g of lithium hydroxide. The resulting solution was stirred for 45 minutes at 0° C. then it was allowed to warm up to room temperature. The solvent was partly removed under reduced pressure and ethyl acetate/1 molar aqueous solution of KH2PO4 was added. The organic layer was separated and the aqueous layer extracted three times with ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. 40 mL of Ethyl acetate was added to the residue and, after stirring for 30 minutes, the resulting solid was collected by filtration to give 225 mg of 3-{4-[4-hydroxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one as a beige solid.

reactant | acetic acid 5-[3-methoxy-4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethyl ester | 0.5 g | COC=1C=C(OCC2=C(N=C(S2)C2=CC=C(C=C2)C(F)(F)F)COC(C)=O)C=CC1C1=NOC(N1)=O | C23H18F3N3O6S
reactant | lithium hydroxide | 0.22 g | [OH-].[Li+]
solvent | methanol | 5 mL | CO | CH4O
product | 3-{4-[4-hydroxymethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one | 225 mg | OCC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)OC)C1=CC=C(C=C1)C(F)(F)F | C21H16F3N3O5S
